data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_446779_0,[C:1]([C:5]([C:3]([N:6]([H:12])[H:13])=[O:9])(/[C:4](=[N:2]/[H:11])[N:7]([H:14])[H:15])[O:8][H:10])([H:16])([H:17])[H:18]>>[C:1](/[C:5](=[C:4](/[N:2]([C:3]([N:6]([H:12])[H:13])=[O:9])[H:11])[N:7]([H:14])[H:15])[O:8][H:10])([H:16])([H:17])[H:18],64.20705499997382
MR_41159_0,[C:1]1([H:5])([H:6])[C:2]([H:7])([H:8])[N:4]1[C:3]([H:9])([H:10])[H:11]>>[C:1](=[C:2]([H:7])[H:8])([N:4]([C:3]([H:9])([H:10])[H:11])[H:6])[H:5],66.16736500000037
MR_201730_1,[C@:1]([C:3]([H:17])([H:18])[H:19])([C:5]([C:2]([H:14])([H:15])[H:16])=[C:4]([O:7][H:10])[O:8][H:9])([N:6]([H:12])[H:13])[H:11]>>[C:1](\[C:3]([H:17])([H:18])[H:19])(=[C:5](/[C:2]([H:14])([H:15])[H:16])[C:4]([N:6]([H:12])[H:13])([O:7][H:10])[O:8][H:9])[H:11],70.20909249997956
MR_27387_1,[N:1](/[C:2]([N:3]([H:9])[H:10])=[C:5](/[N:4]([H:11])[H:12])[H:13])([O:6][H:7])[H:8]>>[N:1](=[C:2](\[N:3]([H:9])[H:10])[C:5]([N:4]([H:11])[H:12])([H:8])[H:13])\[O:6][H:7],47.62285750004054
MR_571232_1,[C:1](/[C:4](=[C:5]([C:2]([H:17])([H:18])[H:19])/[C:6]([C:3]([H:20])([H:21])[H:22])=[C:8](/[N:7]([H:11])[H:12])[H:13])[O:9][H:10])([H:14])([H:15])[H:16]>>[C:1]([C:4]1([O:9][H:10])[C:5]([C:2]([H:17])([H:18])[H:19])=[C:6]([C:3]([H:20])([H:21])[H:22])[C:8]1([N:7]([H:11])[H:12])[H:13])([H:14])([H:15])[H:16],36.10697750000924
MR_473155_1,[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])([C:6]12[N:5]([H:10])[N:8]1[C:7]([C:2]([H:12])([H:13])[H:14])=[N:9]2)[H:11]>>[C:1]([C:3]([H:15])([H:16])[H:17])([C:4]([H:18])([H:19])[H:20])([c:6]1[n:5]([H:10])[n:8][c:7]([C:2]([H:12])([H:13])[H:14])[n:9]1)[H:11],10.680677499999833
MR_174362_1,[N:1]1([H:7])[C:3]([O:6][H:8])([H:10])[N:5]1/[C:4](=[N:2]/[H:9])[H:11]>>[N:1]([C:3](=[O:6])[H:10])(/[N:5]=[C:4](/[N:2]([H:8])[H:9])[H:11])[H:7],20.563175000017395
MR_266224_0,[C:1]([C:3]([N:2]([C:4]([N:6][O:5][H:8])[H:10])[H:9])=[O:7])([H:11])([H:12])[H:13]>>[C:1]([C:3]([N:6](/[C:4](=[N:2]\[H:9])[H:10])[O:5][H:8])=[O:7])([H:11])([H:12])[H:13],51.05214500001438
MR_26601_1,[C:1]1([C:3](/[C:6]([C:5]([H:17])([H:18])[H:19])=[N:8]\[C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:9])[C:2]([H:10])([H:11])[O:7]1>>[C:1]1([C:3](/[C:6]([C:5]([H:17])([H:18])[H:19])=[N:8]\[C:4]([H:14])([H:15])[H:16])([H:12])[H:13])([H:9])[C:2]([H:10])([H:11])[O:7]1,64.52080500000207
MR_421287_2,[C:1]([C:2]([N:7]=[C:3]([H:13])[H:14])(/[C:8](=[N:9]/[H:11])[H:12])[H:10])([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6]([H:21])([H:22])[H:23]>>[C:1]([C:2]1([H:10])[N:7]([C:3]([H:12])([H:13])[H:14])/[C:8]1=[N:9]/[H:11])([C:4]([H:15])([H:16])[H:17])([C:5]([H:18])([H:19])[H:20])[C:6]([H:21])([H:22])[H:23],65.69924999998733
MR_598171_1,[C:1](/[C:2](=[N:4]\[H:14])[N:8]1[C:5]([H:13])([H:15])[C:6]1([H:16])[H:17])([N:3]([H:11])[H:12])([O:7][H:9])[H:10]>>[C:1](/[C:2]([N:4]([H:13])[H:14])=[N:8]/[C:5](=[C:6]([H:16])[H:17])[H:15])([N:3]([H:11])[H:12])([O:7][H:9])[H:10],52.00531749999769
MR_382996_0,[C:1]1([C:4]([H:15])([H:16])[H:17])=[C:8]([H:14])[C:7]2([C:5]([H:18])([H:19])[H:20])[C:2]([H:11])([C:3]([H:12])([H:13])[C:6]2=[O:10])[O:9]1>>[C:1]12([C:4]([H:15])([H:16])[H:17])[C:6](=[O:10])[C:3]([H:12])([H:13])[C:2]([H:11])([C:7]([C:5]([H:18])([H:19])[H:20])=[C:8]1[H:14])[O:9]2,53.53453499998906
MR_94811_1,[C:1]([C:3]12[N:2]([H:8])[C:5]1([H:13])[C:6]([H:14])=[N:7]2)([N:4]([H:9])[H:10])([H:11])[H:12]>>[C:1]([c:3]1[n:2]([H:8])[c:5]([H:13])[c:6]([H:14])[n:7]1)([N:4]([H:9])[H:10])([H:11])[H:12],19.69157750000648
MR_275279_0,[C:1]([C:3]([O:7][H:10])=[O:9])(/[C:4]([N:5]([H:13])[H:14])=[C:6](\[C:2]([H:16])([H:17])[H:18])[H:15])([O:8][H:11])[H:12]>>[C:1](=[C:4](/[N:5]([H:13])[H:14])[C:6]([C:2]([H:16])([H:17])[H:18])([C:3]([O:7][H:10])=[O:9])[H:15])(\[O:8][H:11])[H:12],62.70858499997615
MR_273263_1,[C:1]([C:2]([O:7][H:10])=[O:9])(/[C:3](=[C:6](/[N:5]([H:15])[H:16])[H:17])[O:8][H:11])([N:4]([H:13])[H:14])[H:12]>>[C:1](=[C:3](\[C:6]([C:2]([O:7][H:10])=[O:9])([N:5]([H:15])[H:16])[H:17])[O:8][H:11])(\[N:4]([H:13])[H:14])[H:12],66.71266250003256
MR_91570_2,[C:1]([C:2]([C:4]([H:16])([H:17])[H:18])([N:5]([H:10])[H:11])[H:9])([C:3]([H:13])([H:14])[H:15])(/[N:6]=[N:7]/[H:12])[H:8]>>[C:1](/[C:2](=[N:5]/[H:11])[H:9])([C:3]([H:13])([H:14])[H:15])([N:6]([C:4]([H:16])([H:17])[H:18])[N:7]([H:10])[H:12])[H:8],66.49241000001794
MR_216882_1,[C:1]([C:2](/[N:4]=[N:5]\[H:8])=[O:7])(/[C:3](=[N:6]/[H:9])[H:12])([H:10])[H:11]>>[C:1]([C:2](=[O:7])[H:12])([C:3](/[N:4]=[N:5]\[H:8])=[N:6]/[H:9])([H:10])[H:11],67.94318999999334
MR_429240_0,[C:1]([C:2](/[C:3]([N:4]([H:11])[H:12])=[N:7]/[H:13])([O:5][H:8])[H:10])(=[O:6])[H:9]>>[C:1]1([O:6][H:8])([H:9])[C:2](/[C:3]([N:4]([H:11])[H:12])=[N:7]/[H:13])([H:10])[O:5]1,63.99370499997744
MR_238452_0,[C:1]([C:2]([N:3]([H:10])[H:11])=[O:6])([O:4][H:8])([O:5][H:7])[H:9]>>[C:1](=[C:2]([N:3]([H:10])[H:11])[O:6][H:9])([O:4][H:8])[O:5][H:7],70.65398999999772
